US05221665
N-CBZ-L-Valyl-N-(3-methylpyridinyl)glycine ethyl ester
CBZ-L-Valine (15.4 g, 0.0612 mol) was dissolved in CH2Cl2 (300 mL) and the following reagents were added in equal molar amounts in the stated order; 4-dimethylaminopyridine (DMAP), ethyl-N-(3-methylpyridinyl)glycinate and WSCDI. The reaction mixture was allowed to stir at room temperature over night. Evaporation of the solvent yielded a viscous semisolid which was treated with ethyl acetate and then with water and separated. The organic extract was washed with water followed by 5% aqueous Na2CO3 and saturated aqueous NaCl-solution. After drying over MgSO4, filtration and evaporation under reduced pressure yielded an oil (11.1 g) which was purified over silica gel using CH2Cl2 : CH3OH 97.3 as eluent. Isolated 9.2 g of an amber oil.

reactant | CBZ-L-Valine | 0.0612 mol, 15.4 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | ethyl-N-(3-methylpyridinyl)glycinate | C(C)OC(CNC1=NC=CC=C1C)=O | C10H14N2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | N-CBZ-L-Valyl-N-(3-methylpyridinyl)glycine ethyl ester | 11.1 g | C(C)OC(CN(C1=NC=CC=C1C)C([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O | C23H29N3O5
